US05641778
In a manner analogous to that described in Example 21), reaction of (2S,4S,5S,7S)-N-[4-(tert-butoxycarbonyl)amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonyl]-2-(4-methoxybutoxy)-4-(1H-tetrazol-5-ylmethoxy)-benzamide (88 mg) in a 4N hydrochloric acid solution in dioxane at 0° C. for 6 hours, rapid concentration of the solvent under a high vacuum and lyophilisation yield (2S,4S,5S,7S)-N-(4-amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonyl)-2-(4-methoxybutoxy)-4-(1 H-tetrazol-5-ylmethoxy)-benzamide hydrochloride: Rf (W)=0.06. HPLC Rt =11.5 min. MS(FAB) m/e 634 (M+ +1).

reactant | (2S,4S,5S,7S)-N-[4-(tert-butoxycarbonyl)amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonyl]-2-(4-methoxybutoxy)-4-(1H-tetrazol-5-ylmethoxy)-benzamide | 88 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@H](CNC(C1=C(C=C(C=C1)OCC1=NN=NN1)OCCCCOC)=O)C(C)C)[C@H](C[C@@H](C(C)C)C(NCCCC)=O)O | C37H63N7O8
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2S,4S,5S,7S)-N-(4-amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonyl)-2-(4-methoxybutoxy)-4-(1 H-tetrazol-5-ylmethoxy)-benzamide hydrochloride | Cl.N[C@@H](C[C@H](CNC(C1=C(C=C(C=C1)OCC1=NN=NN1)OCCCCOC)=O)C(C)C)[C@H](C[C@@H](C(C)C)C(NCCCC)=O)O | InChI=1S/C32H55N7O6.ClH/c1-7-8-13-34-32(42)26(22(4)5)18-28(40)27(33)16-23(21(2)3)19-35-31(41)25-12-11-24(45-20-30-36-38-39-37-30)17-29(25)44-15-10-9-14-43-6;/h11-12,17,21-23,26-28,40H,7-10,13-16,18-20,33H2,1-6H3,(H,34,42)(H,35,41)(H,36,37,38,39);1H/t23-,26+,27+,28+;/m1./s1
